US06124323
4-Benzyl-1-(2-(2-oxobenzimidazol-5-oxy)ethyl)-1,2,5,6-tetrahydropyridine
The title compound was prepared from (4-amino-3-nitrophenoxy)ethyl bromide (1.31 g, 5.0 mmol), 4-benzyl-1,2,5,6-tetrahydropyridine (870 mg, 5.02 mmol), K2CO3 (700 g) and KI (80 mg) in three steps as a slightly grey powder, mp. 202-3° C. 1H NMR (DMSO-d6): 1.952 (bs, 2H), 2.50-2.56 (m, 4H), 2.686 (t, 2H, J=6), 2.973 (bs, 2H), 3.241 (s, 2H), 3.988 (t, 2H, J=6), 5.381 (s, 1H), 6.48-6.50 (m, 2H), 6.768 (d, 1H, J=9), 7.14-7.30 (m, 5H). The hydrochloride, mp. 256-7° C. Analysis, Calcd. for (C21H24ClN3O2 +0.2 HCl): C 64.44, H 6.12, N 10.61; Found: C 64.15, H 6.20, N 10.68.

reactant | (4-amino-3-nitrophenoxy)ethyl bromide | 5.0 mmol, 1.31 g | NC1=C(C=C(OCCBr)C=C1)[N+](=O)[O-] | C8H9BrN2O3
reactant | 4-benzyl-1,2,5,6-tetrahydropyridine | 5.02 mmol, 870 mg | C(C1=CC=CC=C1)C1=CCNCC1 | C12H15N
reactant | K2CO3 | 700 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloride | Cl | ClH
product | 4-Benzyl-1-(2-(2-oxobenzimidazol-5-oxy)ethyl)-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)C1=CCN(CC1)CCOC1=CC=2C(=NC(N2)=O)C=C1 | C21H21N3O2
